US09145441B2
Compound 91c: (2S,3R)-2-tert-Butoxycarbonylamino-3-(tert-butyl-diphenyl-silanyloxy)-butyric acid
(2S,3R)-2-tert-Butoxycarbonylamino-3-(tert-butyl-diphenyl-silanyloxy)-butyric acid methyl ester (3.56 g, 7.55 mmol) was taken up in a mixture of tetrahydrofuran (10 mL) and water (3 mL) and cooled using an ice bath. Lithium hydroxide monohydrate (1.27 g, 30.2 mmol) was then added and the reaction was left to stir overnight. The solution was acidified using hydrochloric acid (2 M) until the solution was pH 2. The solution was then extracted with ethyl acetate. The organics were dried over anhydrous sodium sulfate, filtered and concentrated to afford the title compound (3.41 g, 98%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 1.02-1.11 (m, 21H), 4.26-4.35 (m, 1H), 4.41-4.51 (m, 1H), 5.34 (d, J=9.0 Hz, 1H), 7.35-7.49 (m, 6H), 7.63-7.77 (m, 4H). LCMS (m/z) 458.1 [M+H], Tr=3.68 min.

reactant | (2S,3R)-2-tert-Butoxycarbonylamino-3-(tert-butyl-diphenyl-silanyloxy)-butyric acid methyl ester | 7.55 mmol, 3.56 g | COC([C@H]([C@@H](C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C26H37NO5Si
reactant | Lithium hydroxide monohydrate | 30.2 mmol, 1.27 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | (2S,3R)-2-tert-Butoxycarbonylamino-3-(tert-butyl-diphenyl-silanyloxy)-butyric acid | 3.41 g, 98% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@@H](C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H35NO5Si
